US04542027
Phenyl isocyanate (2.38 g, 20 mmol) was added to a solution of laidlomycin (14 g, 20 mmol) in 100 ml of pyridine. The mixture was heated in an oil bath at 70° for 30 min. The mixture was cooled, diluted with dichloromethane, washed with 5% aqueous hydrochloric acid and water, and evaporated. The residue was purified by silica gel chromatography (75% ether hexane, 0.01% formic acid eluent) to afford 10 g of laidlomycin phenylcarbamate as an amorphous solid which melted at 88°-90° C. Carbon-13 NMR spectroscopy confirmed the structure.

reactant | Phenyl isocyanate | 20 mmol, 2.38 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | laidlomycin | 20 mmol, 14 g | CCC(=O)O[C@H]([C@H](C)[C@@H]1[C@@H]([C@H](C[C@@]2(O1)CC[C@@](O2)(C)[C@H]3CC[C@@](O3)(C)[C@H]4[C@H](C[C@@H](O4)[C@@H]5[C@H](C[C@H]([C@@](O5)(CO)O)C)C)C)O)C)[C@H](C)C(=O)O | C37H62O12
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | laidlomycin phenylcarbamate | 10 g | CCC(=O)OC(C(C)C1C(C(CC2(O1)CCC(O2)(C)C3CCC(O3)(C)C4C(CC(O4)C5C(CC(C(O5)(COC(=O)NC6=CC=CC=C6)O)C)C)C)O)C)C(C)C(=O)O | C44H67NO13
